* FILE: MMI_AND4B.sp


* SPICE netlist for "MMI_AND4B" (generated by MMI_SUE4.1.5)

.SUBCKT inverter1 in out WP=2 LP=lp_min WN=1 LN=ln_min
M_0 out in gnd gnd n W='WN*1u' L=LN ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_1 out in vdd vdd p W='WP*1u' L=LP ad='areap(WP,sdd)' as='areap(WP,sdd)' 
+ pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
.ENDS	$ inverter1

.SUBCKT MMI_AND4B in0 in1 in2 in3 out 
Xinverter1 N1 out inverter1 WP=1.84 WN=.92
M_0 N1 in3 vdd vdd p W='.92*1u' L=lp_min ad='areap(.92,sdd)' 
+ as='areap(.92,sdd)' pd='perip(.92,sdd)' ps='perip(.92,sdd)' 
M_1 N1 in2 vdd vdd p W='.92*1u' L=lp_min ad='areap(.92,sdd)' 
+ as='areap(.92,sdd)' pd='perip(.92,sdd)' ps='perip(.92,sdd)' 
M_2 N1 in1 vdd vdd p W='.92*1u' L=lp_min ad='areap(.92,sdd)' 
+ as='areap(.92,sdd)' pd='perip(.92,sdd)' ps='perip(.92,sdd)' 
M_3 N1 in0 vdd vdd p W='.92*1u' L=lp_min ad='areap(.92,sdd)' 
+ as='areap(.92,sdd)' pd='perip(.92,sdd)' ps='perip(.92,sdd)' 
M_4 N1 in0 net_1 gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
M_5 net_1 in1 net_2 gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
M_6 net_2 in2 net_3 gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
M_7 net_3 in3 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
.ENDS	$ MMI_AND4B

.GLOBAL gnd vdd

