* FILE: MMI_AO31B.sp


* SPICE netlist for "MMI_AO31B" (generated by MMI_SUE4.1.5)

.SUBCKT inverter1 in out WP=2 LP=lp_min WN=1 LN=ln_min
M_0 out in gnd gnd n W='WN*1u' L=LN ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_1 out in vdd vdd p W='WP*1u' L=LP ad='areap(WP,sdd)' as='areap(WP,sdd)' 
+ pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
.ENDS	$ inverter1

.SUBCKT MMI_AO31B in0 in1 in2 in3 out 
Xinverter1 N1 out inverter1 WP=1.84 WN=.92
M_0 N1 in0 gnd gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)' 
M_1 N1 in1 net_1 gnd n W='1.38*1u' L=ln_min ad='arean(1.38,sdd)' 
+ as='arean(1.38,sdd)' pd='perin(1.38,sdd)' ps='perin(1.38,sdd)' 
M_2 net_1 in2 net_2 gnd n W='1.38*1u' L=ln_min ad='arean(1.38,sdd)' 
+ as='arean(1.38,sdd)' pd='perin(1.38,sdd)' ps='perin(1.38,sdd)' 
M_3 net_2 in3 gnd gnd n W='1.38*1u' L=ln_min ad='arean(1.38,sdd)' 
+ as='arean(1.38,sdd)' pd='perin(1.38,sdd)' ps='perin(1.38,sdd)' 
M_4 N1 in0 net_3 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_5 net_3 in1 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_6 net_3 in2 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_7 net_3 in3 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
.ENDS	$ MMI_AO31B

.GLOBAL gnd vdd

