* FILE: MMI_AOI31A.sp


* SPICE netlist for "MMI_AOI31A" (generated by MMI_SUE4.1.5)

.SUBCKT MMI_AOI31A in0 in1 in2 in3 out 
M_0 out in0 gnd gnd n W='.46*1u' L=ln_min ad='arean(.46,sdd)' 
+ as='arean(.46,sdd)' pd='perin(.46,sdd)' ps='perin(.46,sdd)' 
M_1 out in1 net_1 gnd n W='1.38*1u' L=ln_min ad='arean(1.38,sdd)' 
+ as='arean(1.38,sdd)' pd='perin(1.38,sdd)' ps='perin(1.38,sdd)' 
M_2 net_1 in2 net_2 gnd n W='1.38*1u' L=ln_min ad='arean(1.38,sdd)' 
+ as='arean(1.38,sdd)' pd='perin(1.38,sdd)' ps='perin(1.38,sdd)' 
M_3 net_2 in3 gnd gnd n W='1.38*1u' L=ln_min ad='arean(1.38,sdd)' 
+ as='arean(1.38,sdd)' pd='perin(1.38,sdd)' ps='perin(1.38,sdd)' 
M_4 out in0 net_3 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_5 net_3 in1 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_6 net_3 in2 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_7 net_3 in3 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
.ENDS	$ MMI_AOI31A

.GLOBAL gnd vdd

